US05116995
To a Suspension of 0.25 ml of 60% sodium hydride (in an oil) in 5 ml of dry N,N-dimethylformamide was added dropwise a solution of 2 g of 5,8-dimethyl-4-(2-di-n-propylaminoethyl)carbazole in 10 ml of dry N,N-dimethyl-formamide, and the mixture was stirred for 30 minutes. To the mixture was added dropwise 1.0 g of methyl iodide, and the mixture was stirred at room temperature for 30 minutes. The reaction solution was poured into ice water and extracted with methylene chloride, and the organic layer was dried over anhydrous magnesium sulfate. After evaporation of the solvent, the residue was chromato-graphed on silica gel column with hexane - acetone (1 : 3) to give 5,8,9-trimethyl-4-(2-di-n-propylaminoethyl)-carbazole, to which a 4N hydrochloric acid - ethyl acetate solution was added. The formed crystals were collected by filtration to give 1.7 g of 5,8,9-trimethyl-4-(2-di-n-propylaminoethyl)carbazole hydrochloride.

reactant | sodium hydride | 0.25 ml | [H-].[Na+]
reactant | 5,8-dimethyl-4-(2-di-n-propylaminoethyl)carbazole | 2 g | CC1=C2C=3C(=CC=CC3NC2=C(C=C1)C)CCN(CCC)CCC | C22H30N2
reactant | methyl iodide | 1.0 g | CI | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,8,9-trimethyl-4-(2-di-n-propylaminoethyl)-carbazole | CC1=C2C=3C(=CC=CC3N(C2=C(C=C1)C)C)CCN(CCC)CCC | C23H32N2
